US08802664B2
To a solution of 1,2,3-triazole (66 mg) in DMF (0.6 mL) is added sodium hydride (25 mg). After gas evolution ceased, 2-[[3-(5-chloropent-1-ynyl)phenyl](1-methylpiperidin-4-yloxy)methyl]-1H-benzimidazole (50 mg) and a catalytic quantity of n-tetrabutylammonium iodide are added. After stirring overnight at room temperature, the solvent is removed under reduced pressure to dryness. The residue is purified by chromatography (dichloromethane/methanol/ammonia 90/10/1) to afford 2-{(1-methylpiperidin-4-yloxy)[3-(5-[1,2,3]triazol-2-yl-pent-1-ynyl)phenyl]methyl}-1H-benzimidazole.

reactant | 1,2,3-triazole | 66 mg | N1N=NC=C1 | C2H3N3
reactant | sodium hydride | 25 mg | [H-].[Na+]
reactant | 2-[[3-(5-chloropent-1-ynyl)phenyl](1-methylpiperidin-4-yloxy)methyl]-1H-benzimidazole | 50 mg | ClCCCC#CC=1C=C(C=CC1)C(C1=NC2=C(N1)C=CC=C2)OC2CCN(CC2)C | C25H28ClN3O
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
product | 2-{(1-methylpiperidin-4-yloxy)[3-(5-[1,2,3]triazol-2-yl-pent-1-ynyl)phenyl]methyl}-1H-benzimidazole | CN1CCC(CC1)OC(C1=NC2=C(N1)C=CC=C2)C2=CC(=CC=C2)C#CCCCN2N=CC=N2 | C27H30N6O
